US04788206
The compound was prepared according to the procedure described in Example 84 except that the reaction was worked up after 3 days. The following reagents were used: 6-undecanone (17 g), diisopropylamine (32.2 mL), 1.6M n-butyl lithium in hexane (143 mL), acetaldehyde N-tert-butylimine (14.75 mL), diethyl chlorophosphonate (16.6 mL) and tetrahydrofuran (200 mL). The work up, varied only in that the oxalic acid catalyzed hydrolysis was run overnight at room temperature, gave the crude aldehyde which was purified by HPLC (ether-hexane; 1:16.6) to yield 15.5 g of 3-pentyl-2-octenal as an oil.

reactant | 6-undecanone | 17 g | CCCCCC(CCCCC)=O | C11H22O
reactant | diisopropylamine | 32.2 mL | C(C)(C)NC(C)C | C6H15N
reactant | n-butyl lithium | 1.6M | C(CCC)[Li]
reactant | oxalic acid | C(C(=O)O)(=O)O | C2H2O4
solvent | hexane | 143 mL | CCCCCC | C6H14
solvent | acetaldehyde N-tert-butylimine | 14.75 mL | C(C)(C)(C)N=CC | C6H13N
solvent | diethyl chlorophosphonate | 16.6 mL | ClP(OCC)(OCC)=O | C4H10ClO3P
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
product | 3-pentyl-2-octenal | 15.5 g | C(CCCC)C(=CC=O)CCCCC | C13H24O
